US09255100B2
N-cyclopropyl-2-methyl-4-{8-[(2-methylpropyl)amino]-6-(1-methyl-1H-pyrazol-5-yl)imidazo[1,2-b]pyridazin-3-yl}benzamide
To a mixture of 100 mg (251 μmol) 4-[6-chloro-8-(isobutylamino)imidazo[1,2-b]pyridazin-3-yl]-N-cyclopropyl-2-methylbenzamide, which was prepared according to example 194a, 95 mg (750 μmol) 1-methyl-1H-pyrazol-5-yl) boronic acid, 35 mg Tetrakis(triphenylphosphin)palladium in 2 mL of ethanol and 2 mL of toluene was added 0.5 mL of an aqueous 10% sodiumbicarbonate solution and the mixture was stirred at 120° C. for 2 hours under microwave irradiation. Then water and was added and the organic layer was washed with water and brine, concentrated and purified by chromatography to give 99 mg of the title compound.

reactant | 4-[6-chloro-8-(isobutylamino)imidazo[1,2-b]pyridazin-3-yl]-N-cyclopropyl-2-methylbenzamide | 251 μmol, 100 mg | ClC=1C=C(C=2N(N1)C(=CN2)C2=CC(=C(C(=O)NC1CC1)C=C2)C)NCC(C)C | C21H24ClN5O
reactant | boronic acid | B(O)O | BH3O2
reactant | sodiumbicarbonate | C([O-])(O)=O.[Na+]
reactant | water | O | H2O
reactant | ethanol | 2 mL | C(C)O | C2H6O
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | N-cyclopropyl-2-methyl-4-{8-[(2-methylpropyl)amino]-6-(1-methyl-1H-pyrazol-5-yl)imidazo[1,2-b]pyridazin-3-yl}benzamide | 99 mg | C1(CC1)NC(C1=C(C=C(C=C1)C1=CN=C2N1N=C(C=C2NCC(C)C)C2=CC=NN2C)C)=O | C25H29N7O
